US09079853B2
5-chloro-1-ethyl-2-oxoindolin-3-yl benzoate
Was made in an analogous fashion to 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate using 5-chloro-1-ethylindoline-2,3-dione. 1H-NMR δ 8.11 (dd, 2H), 7.60 (dt, 1H), 7.47 (m, 2H) 7.45 (m, 1H), 7.33 (dd, 1H), 6.80 (d, 1H), 6.10 (d, 1H), 3.85 (m, 2H), 1.33 (t, 3H).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 5-chloro-1-ethylindoline-2,3-dione | ClC=1C=C2C(C(N(C2=CC1)CC)=O)=O | C10H8ClNO2
product | 5-chloro-1-ethyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CC)=O | C17H14ClNO3
